US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]morpholine
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoic acid (40 mg, 0.1017 mmol) and morpholine (18 mg, 0.2608 mmol) were dissolved in methylene chloride (3 ml), then WSC-HCl (49 mg, 0.2556 mmol) was added thereto and the mixture was stirred at room temperature for 6 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (methylene chloride:methanol=95:5) to give the title compound (32 mg, 0.0692 mmol, 68%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoic acid | 0.1017 mmol, 40 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C=1C=NC=CC1)C)=O | C22H19NO6
reactant | morpholine | 0.2608 mmol, 18 mg | N1CCOCC1 | C4H9NO
reactant | WSC HCl | 0.2556 mmol, 49 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]morpholine | 0.0692 mmol, 32 mg, 68% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)C=1C=NC=CC1)C)=O | C26H26N2O6
